* NMOS Id–Vgs sweep (Sky130)
.options scale=1.0
.options temp=-196.15

.lib "/home/oliviag/skywater130nm/volare/sky130/versions/a918dc7c8e474a99b68c85eb3546b4ed91fe9e7b/sky130A/libs.tech/ngspice/sky130.lib.spice" tt_77k





* Drain bias
VDS DRAIN 0 1.85

* Gate sweep source
VGS GATE 0 1.85

* MOSFET

XM1 DRAIN GATE 0 0 sky130_fd_pr__nfet_01v8_lvt w=1.6u l=0.15u nf=1 ad=0.384p as=0.384p pd=2.08u ps=2.08u

* DC sweep
*.dc VGS 0 1.85 0.01

.control
run
set filetype=ascii
showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta

*running montecarlo sim, 1 param at at a time
showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta > ogparam.txt
set raw_array = ( `cat ogparam.txt` )
  
  define agauss(mean, sigma) (mean + sigma * sgauss(0))  
  set nom_vth0 = $raw_array[11]
  set nom_u0 = $raw_array[13]
  set nom_rdsw = $raw_array[15]
  set nom_nfactor = $raw_array[17]
  set nom_vsat = $raw_array[19]
  set nom_eta0 = $raw_array[21]
  set nom_delta = $raw_array[23]
*showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta 
*echo "$nom_vth0"
*controls
  let mc_vth0 = 1
  set mc_u0 = 1
  set mc_rdsw = 0
  set mc_nfactor = 0
  set mc_vsat = 0
  set mc_eta0 = 0
  set mc_delta = 0
*sigmas
  set s_vth0 = 0.04
  set s_u0 = 0.005
  set s_rdsw = 5.0
  set s_nfactor = 0.5
  set s_vsat = 5000.0
  set s_eta0 = 0.01
  set s_delta = 0.01
  echo "p0 done"
 
  let i_max = 100
  let idx = 0
  let i1 = 1
 
  dowhile (idx < i_max)
  *foreach idx 0 1 2 3 4
    *if len = 0.15u
    *if wid = 1.6u
   
    echo "========================================="
    echo " MONTE CARLO RUN: $&idx" 
    echo "========================================="
    let v_vth0 = $nom_vth0
    let v_u0 = $nom_u0
    let v_rdsw = $nom_rdsw
    let v_nfactor = $nom_nfactor
    let v_vsat = $nom_vsat
    let v_eta0 = $nom_eta0
    let v_delta = $nom_delta
    echo "p1 done"
    
    
    set vth0_min = 0.2
    set vth0_max = 0.5
    set u0_min = 0.02
    set u0_max = 0.1
    set rdsw_min = 98
    set rdsw_max = 105
    set nf_min = 0.01
    set nf_max = 15
    set vsat_min = 7.5e4
    set vsat_max = 1.4e5
    set eta0_min = -0.22
    set eta0_max = -0.1
    set delta_min = 0.005
    set delta_max = 0.06
    print idx

  
    echo "p2 done"
    *showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta 
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[vth0]    = $&v_vth0
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[u0]      = $&v_u0
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[rdsw]    = $&v_rdsw
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[nfactor] = $&v_nfactor
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[vsat]    = $&v_vsat
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[eta0]    = $&v_eta0
    altermod @m.xm1.msky130_fd_pr__nfet_01v8_lvt[delta]   = $&v_delta
    echo "p3 done"
    showmod m.xm1.msky130_fd_pr__nfet_01v8_lvt : vth0 u0 rdsw nfactor vsat eta0 delta
    dc VGS 0 1.8 0.01

    let out_vth0    = v_vth0*(v(drain)*0 + 1)
    let out_u0      = v_u0 * (v(DRAIN)*0 + 1)
    let out_rdsw    = v_rdsw * (v(DRAIN)*0 + 1)
    let out_nfactor = v_nfactor * (v(DRAIN)*0 + 1)
    let out_vsat    = v_vsat * (v(DRAIN)*0 + 1)
    let out_eta0    = v_eta0 * (v(DRAIN)*0 + 1)
    let out_delta   = v_delta * (v(DRAIN)*0 + 1)
    let run_num     = $&idx * (v(DRAIN)*0 + 1)
    echo "p4 done"
    prind idx


   
    set wr_vecnames
    set wr_singlescale

  
    set raw_file = "sim_data_vd/{$&idx}_mosfetVGS_MC_all.dat"
    wrdata $raw_file run_num v(gate) i(vds) out_vth0 out_u0 out_rdsw out_nfactor out_vsat out_eta0
    *let hold = idx
    let idx = idx + i1
    

    
  end


quit
.endc

.end
